US08426408B2
1-Methyl-4-(4-nitro-1H-pyrazol-1-yl)piperidine (132 mg, 0.628 mmol) was dissolved in methanol (6 mL) and the flask was purged with N2. Pd/C (15 mg) was added and the flask was flushed with H2 and stirred under 1 atm H2 (balloon) for 3 hours. The reaction mixture was purged with N2, and filtered through a pad of Celite. The filtrate was concentrated to dryness, yielding 1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-amine.

reactant | 1-Methyl-4-(4-nitro-1H-pyrazol-1-yl)piperidine | 0.628 mmol, 132 mg | CN1CCC(CC1)N1N=CC(=C1)[N+](=O)[O-] | C9H14N4O2
solvent | methanol | 6 mL | CO | CH4O
product | 1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-amine | CN1CCC(CC1)N1N=CC(=C1)N | C9H16N4
